US05621010
To a solution of 3,5-di-tert-butyl-4-hydroxybenzaldehyde (8.09 g, 34.5 mmol) and 2-nitrophenylacetic acid (9.40 g, 51.9 mmol) in xylene (60 ml) was added piperidine (0.3 ml) and the mixture was heated under reflux for 26 hrs while removing water producing with the progress of reaction. After allowing to stand overnight, hexane was added to afford as crystals 2,6-di-tert-butyl-4-(2-nitrostyryl)phenol (7.67 g, 62.9%).

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 34.5 mmol, 8.09 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | 2-nitrophenylacetic acid | 51.9 mmol, 9.40 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
reactant | hexane | CCCCCC | C6H14
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,6-di-tert-butyl-4-(2-nitrostyryl)phenol | 7.67 g, 62.9% | C(C)(C)(C)C1=C(C(=CC(=C1)C=CC1=C(C=CC=C1)[N+](=O)[O-])C(C)(C)C)O | C22H27NO3
